US05814651
1-[4-[2-[3-(Cyclopentyloxy)-4-methoxyphenyl]-ethyl]phenyl]-2-methyl-1H-imidazo[4,5-c]pyridine
A cis and trans mixture of 1-[4-[2-[3-(cyclopentyloxy)-4-methoxyphenyl]-ethenyl]phenyl]-2-methyl-1H-imidazo[4,5-c]pyridine (300 mg, 0.705 mmol 1.0 eq) and 300 mg of 10% Pd/C in 10 ml of tetrahydrofuran and 10 ml of methanol was placed on a Parr hydrogenation apparatus and shaken under 50 psi H2 at room temperature for 6 hours. The reaction mixture was filtered through celite, concentrated, and chromatographed on a silica gel column eluting with 5% CH3OH-CH2Cl2 to give 230 mg of clear oil. Recrystallization from ether-hexane gave 239 mg, 79%, of white crystals. M.P.: 123°-125° C. Elemental Analysis Calc'd for C27 H28N3O2 : Calc'd: C, 75.85; H, 6.84; N, 9.83. Found: C, 75.83; H, 6.74; N, 9.65.

reactant | 1-[4-[2-[3-(cyclopentyloxy)-4-methoxyphenyl]-ethenyl]phenyl]-2-methyl-1H-imidazo[4,5-c]pyridine | 0.705 mmol, 300 mg, 1.0 eq | C1(CCCC1)OC=1C=C(C=CC1OC)C=CC1=CC=C(C=C1)N1C(=NC=2C=NC=CC21)C | C27H27N3O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 1-[4-[2-[3-(Cyclopentyloxy)-4-methoxyphenyl]-ethyl]phenyl]-2-methyl-1H-imidazo[4,5-c]pyridine | 230 mg | C1(CCCC1)OC=1C=C(C=CC1OC)CCC1=CC=C(C=C1)N1C(=NC=2C=NC=CC21)C | C27H29N3O2
